US07598257B2
Step 7: cis-4-[4-(7-[2-(Trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclohexylacetonitrile.
cis-4-[4-(7-[2-(Trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclohexylmethyl methanesulfonate (0.10 g, 0.00020 mol) and sodium cyanide (0.050 g, 0.0010 mol) and DMSO (1.0 mL) were mixed. The mixture was stirred at 60° C. for 24 hours, at which time LCMS analysis showed most of the starting material had been consumed. The reaction was extracted with ethyl acetate and the organic extracts were washed with water, saturated NaCl, dried (MgSO4) and concentrated in vacuo. The concentrate was chromatographed on silica gel using EtOAc as eluent to give the product. LC/MS (M+H)+: 437, 1H NMR(CDCl3):δ 8.90 (s, 1H), 8.36 (s, 1H), 8.31 (s, 1H), 7.45 (d, 1H), 6.87 (d, 1H), 5.73 (S, 2H), 4.43 (m, 1H), 3.60 (m, 2H), 2.45 (d, 2H, J=7.6 Hz), 2.37 (m, 2H), 2.10 (m, 4H), 1.70-1.93 (m, 3H), 0.98 (m, 2H), 0.00 (s, 9H).

reactant | cis-4-[4-(7-[2-(Trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclohexylmethyl methanesulfonate | 0.00020 mol, 0.10 g | CS(=O)(=O)OC[C@@H]1CC[C@@H](CC1)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C23H35N5O4SSi
reactant | sodium cyanide | 0.0010 mol, 0.050 g | [C-]#N.[Na+]
solvent | DMSO | 1.0 mL | CS(=O)C | C2H6OS
product | cis-4-[4-(7-[2-(Trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclohexylacetonitrile | C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)[C@H]2CC[C@H](CC2)CC#N)(C)C | C23H32N6OSi
